Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___.
 
Chief Complaint:
fever, chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female hx. morbid obesity, HTN, DM, asthma, opioid 
abuse previously on methadone, depression/anxiety, DVT/PE 
presenting with c/o fever and chest pain.  

Patient reports 3d ago the onset of pleuritic chest pain, 
dyspnea, and fevers/chills. Says she was first woken from sleep 
with pleuritic chest pain, then had progressive dyspnea with 
exertion. Says the chest pain is central/substernal, currently 
___, constant, worse with breathing or lying flat. Radiates to 
right shoulder. Denies worsening with exertion, denies 
nausea/vomiting. Had fever to 101 at home today so called the 
ED. Denies sick contacts. Has had a dry cough, no sputum. Denies 
___ edema, weight gain, or orthopnea.  
Patient was recently admitted ___ with c/o abdominal 
pain/vomiting, was initially treated for pancreatitis which 
improved rapidly and she was thought to have possible Sphincter 
of Oddi dysfunction v ampullary stenosis. Plan was for close f/u 
for outpatient EGD/EUS with possible colonoscopy.  

Patient called EMS were she was found to be febrile to 102.
  
In the ED initial vitals were: 99.8 95 94/65 18 98% RA. Tm was 
102.4.  
- Labs were significant for CBC with H/H ___, chem-7 
unremarkable, trop t and d dimer negative, lactate 2.4. CXR 
showed concern for right sided multifocal PNA.  
- Patient was given levofloxacin PO as well as tramadol and 
tylenol.  

On the floor patient currently c/o ___ chest pain, which has 
been going on for the past 3d, nonexertional. Not particularly 
relieved by the tramadol in the ED. Otherwise feels well.
 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY ___ at  
___ and complete reversal  
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
 
now on methadone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DVT/PE ___  
-DJD  
-2 SBOs  
-Menopause completed  
Past Surgical History:  
-___- gastric bypass & CCY and subsequent complete  
reversal  
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs,  
attempted reverse of the gastric bypass, the most recent in ___ 

 
Social History:
___
Family History:
Mother with diabetes and HTN. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals - 98.8 101/70 hr 81 18 98% RA  
GENERAL: awake, alert, NAD  
HEENT: EOMI, PERRLA, OMM no lesions, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: mild crackles RLB otherwise clear  
ABDOMEN: nondistended, +BS, mild ttp in epigastrum, no  
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or  
edema  
NEURO: CN II-XII intact, strength ___ in UE and ___ b/l  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
=========================
VS: 98.8 100-110s/70s 70-80s 18 100/RA  
GENERAL: Awake, alert in NAD
HEENT: EOMI, PERRLA, MMM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: Mild crackles RLB but otherwise clear with aeration heard 
throughout though poor respiratory effort
ABDOMEN: ND/NT, +BS, no rebound/guarding, no hepatosplenomegaly
EXTREMITIES: No c/c/e
NEURO: CN II-XII intact, moving all extremities freely
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
LABS:
=====

___ 09:45AM BLOOD WBC-7.7 RBC-3.72* Hgb-11.2* Hct-36.4 
MCV-98 MCH-30.1 MCHC-30.7* RDW-16.1* Plt ___
___ 01:00PM BLOOD WBC-9.1# RBC-3.54* Hgb-10.6* Hct-34.2* 
MCV-97 MCH-30.0 MCHC-31.0 RDW-15.8* Plt ___
___ 09:45AM BLOOD ___ PTT-40.8* ___
___ 01:00PM BLOOD ___ PTT-34.8 ___
___ 09:45AM BLOOD Glucose-99 UreaN-9 Creat-0.8 Na-141 K-3.7 
Cl-104 HCO3-26 AnGap-15
___ 01:00PM BLOOD Glucose-85 UreaN-14 Creat-0.8 Na-135 
K-4.5 Cl-103 HCO3-24 AnGap-13
___ 01:00PM BLOOD ALT-39 AST-26 LD(LDH)-285* AlkPhos-120* 
TotBili-0.4
___ 01:00PM BLOOD Lipase-8
___:00PM BLOOD cTropnT-<0.01
___ 09:45AM BLOOD Calcium-8.9 Phos-3.4 Mg-1.8
___ 01:00PM BLOOD Albumin-3.5
___ 01:00PM BLOOD D-Dimer-287
___ 01:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:45AM BLOOD HCV Ab-PND
___ 01:08PM BLOOD Lactate-2.4*

IMAGING:
========
CXR (___):
FINDINGS:  The cardiomediastinal contours are normal.  There is 
no pleural
effusion or pneumothorax.  The lungs are well-expanded.  Right 
perihilar and right base opacities are new and concerning for 
multifocal infectious process. The left lung is essentially 
clear.  The upper abdomen is unremarkable.
 
IMPRESSION:  Multifocal opacities in the right lung concerning 
for infection.
 
Brief Hospital Course:
___ y/o F w/ PMH of morbid obesity s/p gastric bypass, HTN, DM, 
asthma, opioid abuse previously on methadone, 
depression/anxiety, and DVT/PE presents with c/o fever and chest 
pain found to have radiographic evidence of R sided pneumonia. 

ACTIVE ISSUES:
==============
# R sided pneumonia
Presentation of cough with fevers and R sided chest pain c/w R 
sided PNA noted on CXR. No e/o ACS with normal EKG and negative 
tropsx1. Additionally D-dimer negative so no e/o PE. CURB 65 
score of 1. For PNA, pt was started on PO levofloxacin with no 
further episodes of fever noted overnight or into the following. 
WBC on presentation and the following morning was unremarkable 
with negative lactate. Able to ambulate with saturations in the 
97-100%/RA at time of discharge. Planned for 7 day course of PO 
levofloxacin for community acquired pneumonia (day ___ to 
___. Given numerous psych medications, QTc was checked and 
well within normal limits. Arranged close f/u with PCP at time 
of discharge w/ recommended repeat CXR in ___ weeks to ensure 
resolution.

CHRONIC ISSUES:
===============
# DVT in ___
Pt with prior documentation of DVT in ___. Had been placed on 
both enoxaparin and coumadin for therapy. However, despite high 
doses of coumadin, pt has remained sub-therapeutic on 
medication. Unclear reason for difficulties in achieving goal 
INR of ___. Previously consulted heme-onc as an inpatient to 
help guide therapy duration with recommendation to continue if 
pt continued to smoke or remain immobile given extent of clot 
noted prior. Discussed issue with PCP who can consider possible 
heme-onc reassessment in the future as needed.

# Chronic Pain
History of opioid abuse, previously on methadone. Previously had 
been given tramadol for pain control during past admissions not 
continued by PCP. Pt with chronic pain complaints here with 
reports of mild R sided chest pain. Refused tylenol for control 
and reports unknown allergy to NSAIDs. Limited prescription of 
tramadol provided for next few days upon discharge.

TRANSITIONAL ISSUES:
====================
- F/u BCx pending (anticipate negative)
- Recommend repeat CXR in ___ weeks to ensure PNA resolution
- Re-check INR on ___ given fluoroquinolone use
- Complete abx with levofloxacin for 7 day course (___)
- Consider anti-coagulation regiment given on both enoxaparin 
and coumadin for DVT/PE in ___, duration and whether coumadin 
needed if on enoxaparin too
- F/u HCV added on per outpt providers request
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Bisacodyl 10 mg PO BID:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. ClonazePAM 1 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Doxepin HCl 75 mg PO HS 
8. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
9. Fleet Enema ___AILY:PRN constipation 
10. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia 
11. Mirtazapine 22.5 mg PO HS 
12. Multivitamins 1 TAB PO DAILY 
13. Polyethylene Glycol 17 g PO BID 
14. QUEtiapine Fumarate 100 mg PO QAM 
15. QUEtiapine Fumarate 300 mg PO QHS 
16. Senna 8.6 mg PO BID 
17. Sucralfate 1 gm PO QID 
18. Thiamine 100 mg PO DAILY 
19. Vitamin D 1000 UNIT PO DAILY 
20. Warfarin 13 mg PO DAILY16 
21. Furosemide 40 mg PO DAILY 
22. Gabapentin 600 mg PO TID 
23. Omeprazole 40 mg PO BID 
24. Ondansetron 8 mg PO Q8H:PRN nausea 

 
Discharge Medications:
1. Levofloxacin 750 mg PO DAILY 
Last dose on ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*5 
Tablet Refills:*0
2. Acetaminophen 650 mg PO Q6H:PRN pain 
3. Bisacodyl 10 mg PO BID:PRN constipation 
4. BuPROPion (Sustained Release) 150 mg PO QAM 
5. ClonazePAM 1 mg PO TID 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. Doxepin HCl 75 mg PO HS 
9. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
10. Fleet Enema ___AILY:PRN constipation 
11. Furosemide 40 mg PO DAILY 
12. Gabapentin 600 mg PO TID 
13. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia 
14. Mirtazapine 22.5 mg PO HS 
15. Multivitamins 1 TAB PO DAILY 
16. Omeprazole 40 mg PO BID 
17. Ondansetron 8 mg PO Q8H:PRN nausea 
18. Polyethylene Glycol 17 g PO BID 
19. QUEtiapine Fumarate 100 mg PO QAM 
20. QUEtiapine Fumarate 300 mg PO QHS 
21. Senna 8.6 mg PO BID 
22. Sucralfate 1 gm PO QID 
23. Thiamine 100 mg PO DAILY 
24. Vitamin D 1000 UNIT PO DAILY 
25. Warfarin 13 mg PO DAILY16 
26. TraMADOL (Ultram) 50 mg PO BID:PRN Pain 
RX *tramadol 50 mg 1 tablet(s) by mouth Twice a day Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for pneumonia as seen on the 
X-rays of your lung. Your fevers improved while you were here. 
You will need to continue to take the oral antibiotics 
prescribed for a total of 7 days (last dose on ___. 

You will need to follow-up with your primary care doctor to 
ensure that you are improving. You will also need your INR 
checked earlier as the medication can interact with the warfarin 
that you are taking.

Take care.

- Your ___ Team
 
Followup Instructions:
___